* ADG5558 SPICE Macro-model
* Generic Desc: Ratiometric Isolated Current-Sensor
* Revision History: 1.2 (12/2023)
*
* Begin Notes:
* The model provides an approximate current-to-voltage emulation
*
* Not Modeled:
* Transient characteristics or digital/clocking characteristics
*
* Parameters modeled include:
*	Analog Input Impedance
*	AVDD, TVDD, and VREF Current
*   VDD18 LDO Output and Pulldown
*   Digital IO Leakage Current
*
* Connections
*	1  = IP+		5  = IP-		 9  = FAULT_L       13  = VCAP
*	2  = IP+		6  = IP-		10  = VCC		    14  = GND
*	3  = IP+		7  = IP-	    11  = GND		    15  = GND
*	4  = IP+		8  = IP-	    12  = Vout		    16  = VOC

.SUBCKT MCR1101 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16

* POWER PIN APPROXIMATION
IVCC  10 0 DC 8E-03
RGND1 11 0 100E-06
RGND2 14 0 100E-06
RGND3 15 0 100E-06

RVCAP 13 0 10E03
RVOC  16 0 10E03

* IP+/- Resistance
RIP1P 1 17 10E-03
RIP2P 2 17 10E-03
RIP3P 3 17 10E-03
RIP4P 4 17 10E-03

* Overcurrent Fault Output
EFAULTB  9 0 VALUE = { IF(V(12)>=(V(16)) , 0 , V(10) ) }

* Current-Sense Output
XVOUT 12 17 18 10 ISENSE

RIP1N 18 5 10E-03
RIP2N 18 6 10E-03
RIP3N 18 7 10E-03
RIP4N 18 8 10E-03

.ENDS MCR1101

* Current Sense Path
* Connections
*	1 = VOUT        2 = CURRENT_IN      3 = CURRENT_OUT     4 = VCC
.SUBCKT ISENSE 1 2 3 4

.PARAM
+ R_CONDUCTOR = { 1.3E-03 }
+ V_REF       = { 5 }
+ V_PER_AMP   = { 40E-03 }
+ V_OFFSET    = { V_REF / 2 }
+ V_SCALE     = { V_REF / 5 }
+ P0          = { V_OFFSET }
+ P1          = { V_PER_AMP * V_SCALE }

RSENSE 2 3 { R_CONDUCTOR }
VMEAS  2 3 DC 0

HVOUT 1 0 VMEAS P0 P1

.ENDS ISENSE
